US04140775
In the manner given in Example 1C, 1-phenyl-4-[(4-aminophenyl)methyl]piperazine and 4-chloro-7-(trifluoromethyl)quinoline are reacted together at reflux to give 4-[[4-[[4-phenyl-1-piperazinyl]methyl]phenyl]amino]-7-(trifluoromethyl)quinoline.

reactant | 1-phenyl-4-[(4-aminophenyl)methyl]piperazine | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)N | C17H21N3
reactant | 4-chloro-7-(trifluoromethyl)quinoline | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
product | 4-[[4-[[4-phenyl-1-piperazinyl]methyl]phenyl]amino]-7-(trifluoromethyl)quinoline | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C27H25F3N4
